US06251910B1
a) 3-(3,5-Dimethoxyphenyl)-2-propenoic acid
To a solution of 3,5-dimethoxybenzaldehyde (12.5 g) in pyridine (20 ml) was added malonic acid (8.61 g) and piperidine (1 ml). The resulting solution was heated at 100° C. for 16 hours, cooled to room temperature, poured onto ice and acidified using conc. HCl. The resulting precipitate was collected, extracted into sodium bicarbonate solution and washed with isohexane. The aqueous phase was acidified using conc. HCl to yield a white precipitate which was filtered off, washed with water and dried to afford the subtitle compound (11.07 g).

reactant | 3,5-dimethoxybenzaldehyde | 12.5 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | malonic acid | 8.61 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3,5-Dimethoxyphenyl)-2-propenoic acid | 11.07 g | COC=1C=C(C=C(C1)OC)C=CC(=O)O | C11H12O4
